US04013672
e. 2,5,7,8-Tetrahydro-5-ethyl-1,2,4,5,6-pentaazabenzo[6,7]cyclohepta[1,2,3-cd]-as-indacene
A mixture of 11.0 g. of 4-chloro-1-ethyl-10,11-dihydrobenzo[4,5]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin5(1H)one (0.035 mol.), 4.5 g. of hydrazine hydrate 98% (0.09 mol.) and 125 ml. of abs. ethanol is refluxed for 3 hours with stirring. Then the reaction solution is filtered while hot and allowed to crystallize in a refrigerator. The crystallized 2,5,7,8-tetrahydro-5-ethyl-1,2,4,5,6-pentaazabenzo[6,7]cyclohepta[1,2,3-cd]-as-indacene which is filtered off, washed with alcohol and ether, melts at 229°-231°. Evaporation of the mother liquor to dryness and treatment with water yields a further crop of 1.9 g. of the product. Total yield 97%. Recrystallization from ethanol elevates the melting point to 230°-232°.

reactant | 4-chloro-1-ethyl-10,11-dihydrobenzo[4,5]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin5(1H)one | 0.035 mol | ClC1=C2C(=NC3=C1C=NN3CC)CCC3=C(C2=O)C=CC=C3 | C17H14ClN3O
reactant | hydrazine hydrate | 0.09 mol | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 2,5,7,8-Tetrahydro-5-ethyl-1,2,4,5,6-pentaazabenzo[6,7]cyclohepta[1,2,3-cd]-as-indacene | yield 97% | C(C)N1C=2N=C3C=4C(=NNC4C2C=N1)C1=C(CC3)C=CC=C1 | C17H15N5
